US04371696
Sodium 2-(4-Picolylthio)propionate
Sodium methoxide (5.1 g., 94 mmoles) was dissolved in 50 ml. of absolute ethanol and cooled in an ice bath. A slurry of 4-picolyl chloride hydrochloride (5.0 g., 30.4 mmoles) in 45 ml. of ethanol was added and the chilled reaction mixture stirred for approximately 10 minutes. Finally, 2-mercaptopropionic acid (3.23 g., 30.4 mmoles) dissolved in 5 ml. of ethanol was added over a 10 minute period. The mixture was allowed to warm to room temperature and stirred overnight (approximately 16 hours). The reaction was filtered through filter aid to remove salts, carbon treated and concentrated to crude sodium 2-(4-picolylthio)propionate (approximately 7 g. of oil used directly in the next step).

reactant | Sodium methoxide | 94 mmoles, 5.1 g | C[O-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 30.4 mmoles, 5.0 g | Cl.N1=CC=C(C=C1)CCl
reactant | 2-mercaptopropionic acid | 30.4 mmoles, 3.23 g | SC(C(=O)O)C | C3H6O2S
solvent | ethanol | C(C)O | C2H6O
product | Sodium 2-(4-Picolylthio)propionate | N1=CC=C(C=C1)CSC(C(=O)[O-])C.[Na+] | InChI=1S/C9H11NO2S.Na/c1-7(9(11)12)13-6-8-2-4-10-5-3-8;/h2-5,7H,6H2,1H3,(H,11,12);/q;+1/p-1
